US06133258
The reaction procedure of Example 85 was followed except that 2.347 g (15.1 mmol) of 2-chloronicotinic acid, 30 ml of thionyl chloride, three droplets of DMF, 1.262 g of ammonium thiocyanate, 15 ml of acetone, 2.583 g of N-ethyl-4-isopropylaniline and 10 ml of acetone were used. The resulting crude product was then recrystallized from a mixture of ethanol, ether and hexane to obtain 3.388 g of 2-[N-ethyl-N-(4-isopropylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 15.1 mmol, 2.347 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 1.262 g | [S-]C#N.[NH4+]
reactant | N-ethyl-4-isopropylaniline | 2.583 g | C(C)NC1=CC=C(C=C1)C(C)C | C11H17N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[N-ethyl-N-(4-isopropylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.388 g | C(C)N(C1=CC=C(C=C1)C(C)C)C=1SC2=C(C(N1)=O)C=CC=N2 | C18H19N3OS
